US08168802B2
5-Bromo-1,2-dimethyl-1H-imidazole-4-carbonitrile (2.00 g, 10.0 mmol), palladium (II) acetate (112 mg, 0.499 mmol), triphenylphosphine (393 mg, 1.50 mmol), and water (3.5 mL) were added to a solution of 4-aminopyridin-3-ylboronic acid hydrochloride salt (3.5 g, 0.020 mol), aqueous sodium carbonate (17.5 mL of 2 M), and n-propanol (17.5 mL). The vessel was evacuated and filled with nitrogen three times. The reaction was sealed and heated under a nitrogen atmosphere at 100° C. for two hours and allowed to cool to room temperature. An analysis by high-performance liquid chromatography (HPLC) indicated the presence of starting material, and additional aqueous sodium carbonate (2.5 mL of 2M), palladium (II) acetate (56 mg), triphenylphosphine (197 mg), and 4-aminopyridin-3-ylboronic acid hydrochloride salt (872 mg) were added. The reaction was heated again at reflux for two hours, allowed to cool to room temperature, and further cooled with ice. A precipitate was present and was isolated by filtration and washed with water to provide 865 mg of 1,2-dimethyl-1H-imidazo[4,5-c][1,6]naphthyridin-4-amine. The product was purified by column chromatography on silica gel (eluting with 25% to 40% CMA in chloroform) to provide an analytically pure sample, mp 330-335° C.

reactant | 5-Bromo-1,2-dimethyl-1H-imidazole-4-carbonitrile | 10.0 mmol, 2.00 g | BrC1=C(N=C(N1C)C)C#N | C6H6BrN3
reactant | triphenylphosphine | 1.50 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-aminopyridin-3-ylboronic acid hydrochloride salt | 0.020 mol, 3.5 g | Cl.NC1=C(C=NC=C1)B(O)O
reactant | sodium carbonate | 2 M, 17.5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium (II) acetate | 0.499 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | n-propanol | 17.5 mL | C(CC)O | C3H8O
solvent | water | 3.5 mL | O | H2O
product | 1,2-dimethyl-1H-imidazo[4,5-c][1,6]naphthyridin-4-amine | 865 mg | CN1C(=NC=2C(=NC=3C=CN=CC3C21)N)C | C11H11N5
